US07470680B2
ethyl 2-amino-3,3-diethoxypropanoate.
Ethyl 3,3-diethoxy-2-nitropropanoate (2.45 g, 10.42 mmol) was dissolved in Ethanol (70 mL, 1240 mmol). Nitrogen gas was bubbled through the mixture for 5 minutes. Raney® nickel was added to the mixture. Reaction vessel was placed on a Parr apparatus and charged with 13 psi of hydrogen gas. Reaction shook at room temperature for 1 hour. Mixture was removed from the apparatus and filtered over celite. Filter cake was washed with 150 mL ethanol followed by 250 mL hot ethanol. Filtrate was concentrated to dryness. Title compound was obtained as red oil in 92% yield. 1H NMR (300 MHz, CHLOROFORM-D) δ ppm 4.59 (d, J=4.39 Hz, 1 H) 4.05-4.30 (m, 2 H) 3.65-3.81 (m, 2 H) 3.38-3.63 (m, 3 H) 1.87 (s, 2 H) 1.20-1.29 (m, 3 H) 1.12-1.20 (m, 6 H).

reactant | Ethyl 3,3-diethoxy-2-nitropropanoate | 10.42 mmol, 2.45 g | C(C)OC(C(C(=O)OCC)[N+](=O)[O-])OCC | C9H17NO6
reactant | Ethanol | 1240 mmol, 70 mL | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
product | ethyl 2-amino-3,3-diethoxypropanoate | 92% yield | NC(C(=O)OCC)C(OCC)OCC | C9H19NO4
